US06933299B1
4-Fluoro-5-iodo-isatoic anhydride
Anhydrous dioxane (0.5 litres), 2-amino-4-fluoro-5-iodo-benzoic acid (46 grams, 164 mmoles), and trichloromethylchlorofornate (97.4 grams, 492 mmoles) were added to a one litre one neck flask equipped with a magnetic stir bar and reflux condenser. The solution was placed under anhydrous nitrogen, stirred and heated to reflux for 16 hours. The reaction mixture was allowed to cool and was poured into one litre of hexanes. The solid was collected by suction filtration, washed with an additional 0.5 litres of hexanes, and dried under vacuum at room temperature to yield 45.5 grams (90%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 11.86(s, 1H), 8.24(d, 1H), 6.84(d, 1H). ESI-MS m/z 308 (M+1).

reactant | 2-amino-4-fluoro-5-iodo-benzoic acid | 164 mmoles, 46 grams | NC1=C(C(=O)O)C=C(C(=C1)F)I | C7H5FINO2
reactant | dioxane | 0.5 litres | O1CCOCC1 | C4H8O2
product | 4-Fluoro-5-iodo-isatoic anhydride | 45.5 grams, 90% | FC=1C=C2C(C(=O)OC(N2)=O)=CC1I | C8H3FINO3
